US05278161
In a manner analogous to Example 1, by condensing 3-(2-amino-1,1-diethoxyethyl)pyridine with phenylpyruvic acid there is obtained N-[2,2-diethoxy-2-(3-pyridyl)ethyl]-3-phenylpyruvamide as an amorphous, yellow solid. Subsequent acidic hydrolysis to 3-phenyl-N-[[(3-pyridyl)carbonyl]methyl]pyruvamide and ring closure gives 3-benzyl-5-(3-pyridyl)-2(1H)-pyrazinone as a solid, melting point 188°-190° (from ethyl acetate).

reactant | 3-(2-amino-1,1-diethoxyethyl)pyridine | NCC(OCC)(OCC)C=1C=NC=CC1 | C11H18N2O2
reactant | phenylpyruvic acid | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
product | N-[2,2-diethoxy-2-(3-pyridyl)ethyl]-3-phenylpyruvamide | C(C)OC(CNC(C(=O)CC1=CC=CC=C1)=O)(C=1C=NC=CC1)OCC | C20H24N2O4
